US05731322
(±)-trans-4a-(3-Methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride
A solution of 1.2 g (4.2 mmol) of (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline and 1.8 g (12.6 mmol) of proton sponge in 34 ml of 1,2-dichloroethane was treated with 1.4 ml (16.8 mmol) of vinylchloroformate at 0° C. under nitrogen atmosphere. The reaction mixture was stirred at this temperature for 15 min and then refluxed for 3 h, the solvent was removed in vacuo, the residue was taken up in water and extracted with Et2O. The organic layer was washed with 3% HCl, then was dried over Na2SO4 and the solvent was removed in vacuo. The dark residue was dissolved in EtOH, 3 ml of concentrated HCl were added and the solution refluxed for 3 hours. The solvent was removed in vacuo, obtaining 0.88 g of the title compound which was used as such in the subsequent step. M.p.=90° C. dec.

reactant | (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline | 4.2 mmol, 1.2 g | C(C)N1C[C@@H]2CCC(C[C@]2(CC1)C1=CC(=CC=C1)OC)=O | C18H25NO2
reactant | proton sponge | 12.6 mmol, 1.8 g | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | vinylchloroformate | 16.8 mmol, 1.4 ml | C(=C)OC(=O)Cl | C3H3ClO2
solvent | 1,2-dichloroethane | 34 ml | ClCCCl | C2H4Cl2
product | (±)-trans-4a-(3-Methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride | 0.88 g | Cl.COC=1C=C(C=CC1)[C@@]12CCNC[C@@H]2CCC(C1)=O | InChI=1S/C16H21NO2.ClH/c1-19-15-4-2-3-12(9-15)16-7-8-17-11-13(16)5-6-14(18)10-16;/h2-4,9,13,17H,5-8,10-11H2,1H3;1H/t13-,16+;/m0./s1
